US08067457B2
N-(2-[((3R)-1-{1-[3-(aminocarbonyl)phenyl]piperidin-4-yl)pyrrolidin-3-yl)amino]-2-oxoethyl}-3-(trifluoromethyl)benzamide was synthesized in similar fashion to N-[2-({(3R)-1-[1-(6-methoxypyridin-3-yl)piperidin-4-yl]pyrrolidin-3-yl}amino)-2-oxoethyl]-3-(trifluoromethyl)benzamide, substituting 3-aminobenzamide for 6-methoxypyridin-3-amine. The crude product was purified by preparative HPLC. MS m/z: 518 (M+1).

reactant | N-[2-({(3R)-1-[1-(6-methoxypyridin-3-yl)piperidin-4-yl]pyrrolidin-3-yl}amino)-2-oxoethyl]-3-(trifluoromethyl)benzamide | COC1=CC=C(C=N1)N1CCC(CC1)N1C[C@@H](CC1)NC(CNC(C1=CC(=CC=C1)C(F)(F)F)=O)=O | C25H30F3N5O3
reactant | 6-methoxypyridin-3-amine | COC1=CC=C(C=N1)N | C6H8N2O
product | N-(2-[((3R)-1-{1-[3-(aminocarbonyl)phenyl]piperidin-4-yl)pyrrolidin-3-yl)amino]-2-oxoethyl}-3-(trifluoromethyl)benzamide | NC(=O)C=1C=C(C=CC1)N1CCC(CC1)N1C[C@@H](CC1)NC(CNC(C1=CC(=CC=C1)C(F)(F)F)=O)=O | C26H30F3N5O3
